US04897406
A mixture of 1.20 g (0.009 mol) of rhodanine, 1.64 g (0.006 mol) of 3,5-di-t-butyl-4-hydroxybenzalacetone, 0.23 g (0.003 mol) of ammonium acetate and 5 of toluene was heated under reflux for 7 hours. After cooling, the precipitated crystals were recovered by filtration, washed with water and further methanol to give 0.18 g of the desired 5-(α-methyl-3,5-di-t-butyl-4-hydroxycinnamylidene)-4-oxo-2-thioxothiazolidine.

reactant | rhodanine | 0.009 mol, 1.20 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | 3,5-di-t-butyl-4-hydroxybenzalacetone | 0.006 mol, 1.64 g | C(C)(C)(C)C=1C=C(C=CC(C)=O)C=C(C1O)C(C)(C)C | C18H26O2
reactant | ammonium acetate | 0.003 mol, 0.23 g | C(C)(=O)[O-].[NH4+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(α-methyl-3,5-di-t-butyl-4-hydroxycinnamylidene)-4-oxo-2-thioxothiazolidine | 0.18 g | CC(C=C1C(NC(S1)=S)=O)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C21H27NO2S2
